US06451821B1
A solution of 1.75 g of N-(tert-butyl)-N′-[(1R)-1-hydroxymethyl-2-(4-thiazolyl)ethyl]thiourea in 20 cm3 of 6N hydrochloric acid is heated at a temperature in the region of 110° C. for 20 hours. The reaction medium is concentrated under reduced pressure (1 kPa) at a temperature in the region of 60° C., taken up in 5 cm3 of ethanol and then concentrated under the same conditions as above. The residue is taken up in 5 cm3 of ethanol and the product is then filtered off and dried in a desiccator under reduced pressure (0.1 kPa) at a temperature in the region of 40° C. 0.54 g of (+)-(4R)-4-(4-thiazolylmethyl)-4,5-dihydro-2-thiazolylamine dihydrochloride is obtained in the form of a cream-coloured solid melting at 195° C. [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 3.67 (mt: 2H); 3.41 (dd, J=11.5 and 5.5 Hz: 1H); 3.68 (dd, J=11.5 and 8 Hz: 1H); 4.63 (mt: 1H); 7.59 (d, J=2 Hz: 1H); 9.14 (d, J=2 Hz: 1H); 9.18 (unresolved complex: 1H); 9.66 (unresolved complex: 1H); 10.04 (broad s: 1H); (αD20=+24.2+/−0.8 at a concentration of 0.5% in methanol)].

reactant | N-(tert-butyl)-N′-[(1R)-1-hydroxymethyl-2-(4-thiazolyl)ethyl]thiourea | 1.75 g | C(C)(C)(C)NC(=S)N[C@H](CC=1N=CSC1)CO | C11H19N3OS2
reactant | hydrochloric acid | 6N, 20 cm3 | Cl | ClH
product | (+)-(4R)-4-(4-thiazolylmethyl)-4,5-dihydro-2-thiazolylamine dihydrochloride | 0.54 g | Cl.Cl.S1C=NC(=C1)C[C@H]1N=C(SC1)N | InChI=1S/C7H9N3S2.2ClH/c8-7-10-6(3-12-7)1-5-2-11-4-9-5;;/h2,4,6H,1,3H2,(H2,8,10);2*1H/t6-;;/m1../s1
